US04280819
(Preparation of bis(4-methoxyphenyl)diazomethane)
25 grams (0.1 moles) of p,p'-dimethoxybenzophenone, which was purchased from the Aldrich Chemical Company, was dissolved in 50 ml of n-propanol and with solution was treated with 20 grams of hydrazine, which had been freshly distilled over sodium hydroxide pellets. The mixture was then refluxed for a total of 12 hours, after which the solvent (n-propanol) and excess hydrozine were removed at reduced pressure. The residual crude hydrazone was recrystallized from ethanol and had a melting point of 85° C.

reactant | p,p'-dimethoxybenzophenone | 0.1 moles, 25 grams | COC1=CC=C(C=C1)C(=O)C2=CC=C(C=C2)OC | C15H14O3
reactant | hydrazine | 20 grams | NN | H4N2
solvent | n-propanol | 50 ml | C(CC)O | C3H8O
product | bis(4-methoxyphenyl)diazomethane | COC1=CC=C(C=C1)C(=[N+]=[N-])C1=CC=C(C=C1)OC | C15H14N2O2
